US08039631B2
The present invention relates to a process for preparing the Crystalline Form A of Lansoprazole, which comprises dissolving Lansoprazole obtained by oxidation of 2-([3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridinyl]-methyl)thio-1H-benzimidazole in ethanol, adding water thereto, stirring the mixture at the temperature range of from 15 to 40° C. for 0.5 to 4 hours, and filtering and drying the resulting product.

reactant | Lansoprazole | CC=1C(=CC=NC1C[S+](C=2NC=3C=CC=CC3N2)[O-])OCC(F)(F)F | C16H14F3N3O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-([3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridinyl]-methyl)thio-1H-benzimidazole | CC=1C(=NC=CC1OCC(F)(F)F)CSC1=NC2=C(N1)C=CC=C2 | C16H14F3N3OS
